US08203003B2
Anhydrous HF with nitrogen gas was bubbled into a solution of trimethylsilyl (2S,4R)—N-(chloroacetyl)-4-(trimethylsilyloxy)pyrrolidine-2-carboxylate (4.70 g, 15.0 mmol) in 20 ml of acetonitrile in a Teflon container [HF was generated by heating 10 g (100 mmol) of NaF.HF at 215° C. in a Teflon® vessel and carried with nitrogen flow into the solution]. The reaction mixture was then stirred at room temperature for 15 h. The reaction mixture was evaporated to dryness in vacuo. The resulting solid was washed with 100 ml of anhydrous ether and dried in vacuo to yield 2.67 g (yield 92%) of (2S,4R)—N-(chloroacetyl)-4-hydroxypyrrolidine-2-carboxylic acid as a off-white solid: mp 123-124° C. (dec): 1H-NMR (D2O) δ 1.9-2.4 (m, 2H), 3.4-3.7 (m, 2H), 3.9-4.2 (m, 2H), 4.25-4.5 (m, 2H): 13C-NMR (CDCl3) δ 36.65, 41.84, 54.87, 58.36, 69.79, 168.22, 175.30: High Resolution Mass/ESI-APCI method; (M+H)+ 208.0369 (calcd 208.0371 for C7H11ClNO4); (M+Na)+ 230.0189 [calcd 230.0191 for (C7H10ClNO4+Na)].

reactant | trimethylsilyl (2S,4R)—N-(chloroacetyl)-4-(trimethylsilyloxy)pyrrolidine-2-carboxylate | 15.0 mmol, 4.70 g | ClCC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C)C(=O)O[Si](C)(C)C | C13H26ClNO4Si2
reactant | NaF | 100 mmol, 10 g | [F-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (2S,4R)—N-(chloroacetyl)-4-hydroxypyrrolidine-2-carboxylic acid | 2.67 g, yield 92% | ClCC(=O)N1[C@@H](C[C@H](C1)O)C(=O)O | C7H10ClNO4
